US04272429
A resorcinol-decabromodiphenyl ether oligomer was prepared by heating 16.5 grams (0.15 mole) resorcinol with 143.9 grams (0.15 mole) decabromodiphenyl ether (DBDPE) in 300 ml chlorobenzene and 300 ml dimethyl acetamide (DMAC). 30 g of anhydrous potassium carbonate was also added as the base required to carry out the reaction. The mixture was heated at reflux (146° C.) for 5 hours and water formed by the reaction was removed using a modified Dean Stark trap. The reaction mixture was filtered hot and the oligomer was precipitated by pouring the reaction mixture into 2 liters of methanol. The solid product was collected and dried. Oligomer recovered was 105 grams.

reactant | resorcinol | 0.15 mole, 16.5 grams | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | decabromodiphenyl ether | 0.15 mole, 143.9 grams | C1(=C(C(=C(C(=C1Br)Br)Br)Br)Br)OC2=C(C(=C(C(=C2Br)Br)Br)Br)Br | C12Br10O
reactant | potassium carbonate | 30 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | chlorobenzene | 300 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | dimethyl acetamide | 300 ml | CC(=O)N(C)C | C4H9NO
product | resorcinol decabromodiphenyl ether | C1(O)=CC(O)=CC=C1.C1(=C(C(=C(C(=C1Br)Br)Br)Br)Br)OC2=C(C(=C(C(=C2Br)Br)Br)Br)Br | InChI=1S/C12Br10O.C6H6O2/c13-1-3(15)7(19)11(8(20)4(1)16)23-12-9(21)5(17)2(14)6(18)10(12)22;7-5-2-1-3-6(8)4-5/h;1-4,7-8H
